US07439266B2
2.0 g of 2-methylmalononitrile and 4.2 g of ethyl bromoacetate were dissolved in 10 ml of dimethyl sulfoxide. 3.4 g of potassium carbonate was added thereto and stirred for 4 hours at room temperature. Then, to the reaction mixture was added dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography to give 1.0 g of 2-(ethoxycarbonylmethyl)-2-methylmalononitrile (hereinafter referred to as the present invention compound (74)).

reactant | 2-methylmalononitrile | 2.0 g | CC(C#N)C#N | C4H4N2
reactant | ethyl bromoacetate | 4.2 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(ethoxycarbonylmethyl)-2-methylmalononitrile | 1.0 g | C(C)OC(=O)CC(C#N)(C#N)C | C8H10N2O2
